US05463140
2,3-Dimercaptopropanesulfonic acid:
prepared from sodium 2,3-dimercaptopropanesulfonate (Aldrich, 95% by neutralization with HCl or treatment with an acid ion-exchange resin, e.g. DOWEX™ MSC-1.

reactant | sodium 2,3-dimercaptopropanesulfonate | SC(CS(=O)(=O)[O-])CS.[Na+]
reactant | HCl | Cl | ClH
product | 2,3-Dimercaptopropanesulfonic acid | SC(CS(=O)(=O)O)CS | C3H8O3S3
